US06440965B1
Acetic anhydride (Aldrich) (0.318 g, 3.11 mmoles) in tetrahydrofuran (1.5 mL) was added to a solution of 2-amino-5-(4-chlorophenoxy)-4-(piperazino)pyrimidine (0.511 g, 1.67 mmoles) and triethylamine (0.526 g, 5.20 mmoles) in tetrahydrofuran (13 mL). After 0.5 hours the solution was diluted with ice water (40 mL) and poured into dichloromethane (75 mL). The layers were separated, and the organic layer was washed with saturated aqueous sodium bicarbonate (40 mL), brine (40 mL) and then dried over sodium sulfate. The dry solution was spin evaporated in vacuo to give a white foam. The foam was recrystallized from hexanes-ethyl acetate to give 0.348 g (60% yield) of 4-(4-acetylpiperazino)-2-amino-5-(4-chlorophenoxy)pyrimidine as beige pins, mp 153-157° C.

reactant | Acetic anhydride | 3.11 mmoles, 0.318 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-5-(4-chlorophenoxy)-4-(piperazino)pyrimidine | 1.67 mmoles, 0.511 g | NC1=NC=C(C(=N1)N1CCNCC1)OC1=CC=C(C=C1)Cl | C14H16ClN5O
reactant | triethylamine | 5.20 mmoles, 0.526 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
product | 4-(4-acetylpiperazino)-2-amino-5-(4-chlorophenoxy)pyrimidine | 0.348 g, 60% yield | C(C)(=O)N1CCN(CC1)C1=NC(=NC=C1OC1=CC=C(C=C1)Cl)N | C16H18ClN5O2
